US07842685B2
Reaction of 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (27.3 mg, 113 μmol) and 2,4-difluorobenzoyl chloride (13.8 μl, 113 μmol) according to Reference V and the general procedure for the condensation of 3-aminopyridine-2-thione with aryl acid chlorides to give 2-(2,4-difluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 364.1; Observed: 365.0 (M++1).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 113 μmol, 27.3 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | 2,4-difluorobenzoyl chloride | 113 μmol, 13.8 μl | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 3-aminopyridine-2-thione | NC=1C(NC=CC1)=S | C5H6N2S
product | 2-(2,4-difluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | FC1=C(C=CC(=C1)F)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C21H14F2N2S
